US04800203
3-Chloro-5-methylpyrrolo[1,2-b]cinnolin-10(5H)-one
A solution of 5-methylpyrrolo[1,2-b]cinnolin-10(5H)-one (5.0 g) in 180 mL of tetrahydrofuran at 0° C. was treated with N-chlorosuccinimide (3.4 g) all at once and the mixture was stirred at ambient temperature. After 36 h the solution was concentrated and the residue taken up in chloroform. This solution was washed with two 100 ml portions of water, dried over MgSO4, filtered and concentrated. The residue was purified by flash chromatography (silica, dichloromethane) to give 2.83 g of an off-white powder, mp 88.5°-90.5° C.

reactant | 5-methylpyrrolo[1,2-b]cinnolin-10(5H)-one | 5.0 g | CN1N2C(C(C=3C=CC=CC13)=O)=CC=C2 | C12H10N2O
reactant | N-chlorosuccinimide | 3.4 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | tetrahydrofuran | 180 mL | O1CCCC1 | C4H8O
product | 3-Chloro-5-methylpyrrolo[1,2-b]cinnolin-10(5H)-one | 2.83 g | ClC1=CC=C2N1N(C=1C=CC=CC1C2=O)C | C12H9ClN2O
